US08809363B2
Ethyl (4-hydroxy-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-yl)carboxylate
In a 10 L reaction vessel, pyridinium p-toluenesulfonic acid (39.7 g, 158 mMol) was added to a stirred solution of ethyl-2-amino-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylate (Preparation 1) and ethyl-3-ethoxybut-2-eneoate (Preparation 2) in toluene (6.0 L) at room temperature under argon. The resulting mixture was heated to reflux, and stirred at reflux for 6 hours. The mixture was cooled 40° C. and stirred at 40° C. for 16 hours. The mixture was heated to 50° C. (to dissolve the precipitate) and the solution was run out of the reaction vessel. The reaction vessel was charged with 21% (w/w) sodium ethoxide in ethanol (1.1 L, 3.48 Mol) and ethanol (2.0 L), and the resulting mixture was heated to 50° C. The reaction mixture was then poured back into the reaction vessel over 5 minutes. The resulting mixture was heated to reflux and stirred at reflux for 2 hours. The mixture was cooled to 30° C. and split into 2 approximately equal batches. Each batch was treated with Celite® (approx. 2 L) and concentrated under reduced pressure. The resulting solids were suspended in water (2.0 L, 40° C.) and stirred vigorously until all solids were free flowing. The solids were collected by filtration through a pad of Celite®, and the filter-cake was washed with water (2.5 L, 40° C.). The filtrate was washed with diethylether (2×1.3 L) and then cooled to 15° C. 6 M hydrochloric acid was added carefully until pH 4 was achieved. The resulting precipitate was collected by filtration and the filter-cake was washed with dilute hydrochloric acid (500 mL). The filter-cake was dried in a drying oven, at 50° C. for 2 days. This gave the title compound as a yellow solid (584 g, 64%).

reactant | pyridinium p-toluenesulfonic acid | 158 mMol, 39.7 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.[NH+]1=CC=CC=C1
reactant | ethyl-2-amino-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylate | C(C)OC(=O)C=1C2=C(SC1N)CCCC2 | C11H15NO2S
reactant | ethyl-3-ethoxybut-2-eneoate | C(C)OC(C=C(C)OCC)=O | C8H14O3
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | toluene | 6.0 L | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 2.0 L | C(C)O | C2H6O
solvent | ethanol | 3.48 Mol, 1.1 L | C(C)O | C2H6O
product | Ethyl (4-hydroxy-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridine-3-yl)carboxylate | 584 g, 64% | OC1=C2C(=NC(=C1C(=O)OCC)C)SC1=C2CCCC1 | C15H17NO3S
